US08629270B2
N-[(4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)7a-(5-fluorothiophen-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide
To a stirred mixture of the N-[(4aR,7aR)-7a-(5-fluorothiophen-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (415 mg, 1.15 mmol) in 1,4-dioxane (23 mL) is added diisopropylethylamine (601 μL, 3.44 mmol) and 2-chloro-5-fluoropyrimidine (1.10 mL, 11.5 mmol). The solution is heated to reflux for 3 hours. The pale yellow solution is allowed to cool, diluted with ethyl acetate, (120 mL) and washed with dilute aqueous sodium bicarbonate (100 mL, prepared from 50 mL saturated sodium bicarbonate and 50 mL water), water (50 mL), and brine (50 mL). The organic phase is dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified by silica gel chromatography eluting with hexanes/ethyl acetate, gradient from 60:40 to 30:70, to give the title compound (435 mg, 83%) as a white foam. ES/MS (m/e): 458.0 (M+H).

reactant | N-[(4aR,7aR)-7a-(5-fluorothiophen-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 1.15 mmol, 415 mg | FC1=CC=C(S1)[C@@]12N=C(SC[C@@H]1CNC2)NC(C2=CC=CC=C2)=O | C17H16FN3OS2
reactant | diisopropylethylamine | 3.44 mmol, 601 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloro-5-fluoropyrimidine | 11.5 mmol, 1.10 mL | ClC1=NC=C(C=N1)F | C4H2ClFN2
solvent | 1,4-dioxane | 23 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
product | N-[(4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)7a-(5-fluorothiophen-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 435 mg, 83% | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)NC(C1=CC=CC=C1)=O)C=1SC(=CC1)F | C21H17F2N5OS2
